### PR TITLE
[Merged by Bors] - feat(Algebra): more on `OrthogonalIdempotents`

### PR DESCRIPTION
**Pull request by Whysoserioushah**
Co-authored-by : @jjaassoonn 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Idempotents.lean [hunk 1]
```diff
@@ -111,6 +112,15 @@ structure OrthogonalIdempotents : Prop where
   idem : ∀ i, IsIdempotentElem (e i)
   ortho : Pairwise (e · * e · = 0)
 
+/-- A primitive idempotent is primitive if it's not zero and `e ≠ e₁ + e₂` for any
+  `e₁` and `e₂` idempotents and pairwisely orthogonal. -/
+structure IsPrimitiveIdempotents (e : R): Prop where
```
Comment (mo271) [inline Mathlib/RingTheory/Idempotents.lean:117]:
```suggestion
structure IsPrimitiveIdempotents (e : R) : Prop where
```

File: Mathlib/RingTheory/Idempotents.lean [hunk 2]
```diff
@@ -335,6 +345,143 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
     simpa [RingHom.mem_ker, sub_eq_zero] using congr_fun h₂.symm i
   exact h₁
 
+omit [Fintype I] in
+lemma ne_sum_ortho {e : R} (he : IsPrimitiveIdempotents e)
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/Idempotents.lean:349]: Looking at name `OrthogonalIdempotents.mul_eq`, maybe this one should be called `OrthogonalIdempotents.mul_eq.ne_add`

File: Mathlib/RingTheory/Idempotents.lean [hunk 3]
```diff
@@ -335,6 +345,143 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
...
+        fin_cases x <;> fin_cases y <;> simp_all [ho.2 eq]
+        exact ho.2 <| fun a ↦ eq (a.symm)⟩
+    · simp_all only [ne_eq, not_false_eq_true]
+    · simp_all only [ne_eq, not_false_eq_true]
+
+variable {ι M σ : Type*} [DecidableEq ι] [AddCommGroup M] [Module R M]
+open DirectSum
+variable (ℳ : ι → Submodule R M) [Decomposition ℳ] [(i : ι) → (x : (ℳ i)) → Decidable (x ≠ 0)]
+
+lemma decompose_unique  (rep₁ rep₂ : ⨁ i, ℳ i)
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/Idempotents.lean:378]: This lemma belongs to `Mathlib.Algebra.DirectSum.Decomposition` or something like that, and probably can be generalized

File: Mathlib/RingTheory/Idempotents.lean [hunk 4]
```diff
@@ -335,6 +345,143 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
...
+  rw [← sum_support_decompose ℳ (r := (decompose ℳ).symm rep₁),
+    ← sum_support_decompose ℳ (r := (decompose ℳ).symm rep₂)]
+  simp only [Equiv.apply_symm_apply]
+  exact h₁.symm
+
+omit [Fintype I] in
+/-- If a ring can be decomposed into direct sum of finitely many left ideals `Vᵢ`
+  where `1 = e₁ + ... + eₙ` and `eᵢ ∈ Vᵢ`, then `eᵢ` is a family of orthogonal
+  idempotents.-/
+theorem decomp_ring_ortho_idem [DecidableEq I] (V : I → Submodule R R)
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/Idempotents.lean:391]: The name probably should be `OrthogonalIdempotents.xxx`

Comment (jjaassoonn) [reply Mathlib/RingTheory/Idempotents.lean:391]: Also the proof is extremely long, is it possible to break it down

**Review by jjaassoonn — CHANGES_REQUESTED** [review]

File: Mathlib/RingTheory/Idempotents.lean [hunk 5]
```diff
@@ -111,6 +112,15 @@ structure OrthogonalIdempotents : Prop where
...
   ortho : Pairwise (e · * e · = 0)
 
+/-- A primitive idempotent is primitive if it's not zero and `e ≠ e₁ + e₂` for any
+  `e₁` and `e₂` idempotents and pairwisely orthogonal. -/
+structure IsPrimitiveIdempotents (e : R): Prop where
+  idem : IsIdempotentElem e
+  [ne_zero : e ≠ 0]
+  ne_sum_ortho' :
+    ∀ (f g : R) (_ : OrthogonalIdempotents ![f, g])
+      (_ : f ≠ 0) (_ : g ≠ 0), e ≠ f + g
```
Comment (jjaassoonn) [inline Mathlib/RingTheory/Idempotents.lean:122]: Is it better to use `[NeZero f]` and `[NeZero g]` here? Not too sure

File: Mathlib/RingTheory/Idempotents.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Idempotents.lean:349]: Or maybe `IsPrimitiveIdempotents.xxx`

File: Mathlib/RingTheory/Idempotents.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Idempotents.lean:117]: Probably `IsPrimitiveIdempotent`

File: Mathlib/RingTheory/Idempotents.lean (hunk 2 above)
Comment (erdOne) [inline Mathlib/RingTheory/Idempotents.lean:349]: I don't understand what this lemma is for. Can you point me to an application?

File: Mathlib/RingTheory/Idempotents.lean (hunk 1 above)
Comment (erdOne) [inline Mathlib/RingTheory/Idempotents.lean:117]:
```suggestion
structure IsPrimitiveIdempotents (e : R) : Prop where
```

**Review by erdOne — COMMENTED** [review]
Wait I just noticed I deleted a review by Moritz on accident. I'm very sorry about that. This is the reconstructed review according to my mailbox.

File: Mathlib/RingTheory/Idempotents.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:349]: It's used in the later theorem I'm gonna push in the next PR about this

File: Mathlib/RingTheory/Idempotents.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:391]: > The name probably should be `OrthogonalIdempotents.xxx`

good idea, fixed

File: Mathlib/RingTheory/Idempotents.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:349]: hmmm actually u're right, deleted!

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:349]: deleted

File: Mathlib/RingTheory/Idempotents.lean (hunk 4 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean]: > Also the proof is extremely long, is it possible to break it down

fixed!

File: Mathlib/RingTheory/Idempotents.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean]: Done!

File: Mathlib/RingTheory/Idempotents.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:122]: should be the same though

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean]: done

File: Mathlib/RingTheory/Idempotents.lean [hunk 6]
```diff
@@ -335,6 +345,112 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
...
+  simp only [DFinsupp.single_apply, ↓reduceDIte, x]
+
+open DirectSum in
+omit [Fintype I] in
+/-- If a ring can be decomposed into direct sum of finitely many left ideals `Vᵢ`
+  where `1 = e₁ + ... + eₙ` and `eᵢ ∈ Vᵢ`, then `eᵢ` is a family of orthogonal
+  idempotents.-/
+theorem OrthogonalIdempotent.decomp_ring_ortho_idem [DecidableEq I] (V : I → Submodule R R)
+    [Decomposition V] (e : ⨁ (i : I), (V i)) [(i : I) → (x : ↥(V i)) → Decidable (x ≠ 0)]
+    (he : (1 : R) = ∑ j ∈ e.support, e j):
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Idempotents.lean:406]: Again I'm not convinced that this is the hypothesis you want, because we have a much more natural way to say it.

File: Mathlib/RingTheory/Idempotents.lean [hunk 7]
```diff
@@ -111,6 +112,15 @@ structure OrthogonalIdempotents : Prop where
   idem : ∀ i, IsIdempotentElem (e i)
   ortho : Pairwise (e · * e · = 0)
 
+/-- A primitive idempotent is primitive if it's not zero and `e ≠ e₁ + e₂` for any
+  `e₁` and `e₂` idempotents and pairwisely orthogonal. -/
+structure IsPrimitiveIdempotents (e : R) : Prop where
+  idem : IsIdempotentElem e
+  [ne_zero : e ≠ 0]
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/RingTheory/Idempotents.lean:119]: What about `[ne_zero : NeZero e]`

File: Mathlib/Algebra/DirectSum/Decomposition.lean [hunk 8]
```diff
@@ -267,6 +267,15 @@ theorem decompose_lhom_ext {N} [AddCommMonoid N] [Module R N] ⦃f g : M →ₗ[
...
       simp_rw [LinearMap.comp_assoc, decomposeLinearEquiv_symm_comp_lof ℳ i, h]
 
+lemma decompose_unique  (rep₁ rep₂ : ⨁ i, ℳ i) [(i : ι) → (x : ↥(ℳ i)) → Decidable (x ≠ 0)]
+    (h₁ : (∑ i ∈ rep₂.support, rep₂ i : M) = (∑ i ∈ rep₁.support, rep₁ i)) :
+    rep₁ = rep₂ := by
+  apply_fun (decompose ℳ).symm
+  rw [← sum_support_decompose ℳ (r := (decompose ℳ).symm rep₁),
+    ← sum_support_decompose ℳ (r := (decompose ℳ).symm rep₂)]
+  simp only [Equiv.apply_symm_apply]
+  exact h₁.symm
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Decomposition.lean:277]: fixed!

File: Mathlib/RingTheory/Idempotents.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:120]: removed!

File: Mathlib/RingTheory/Idempotents.lean [hunk 9]
```diff
@@ -111,6 +112,15 @@ structure OrthogonalIdempotents : Prop where
   idem : ∀ i, IsIdempotentElem (e i)
   ortho : Pairwise (e · * e · = 0)
 
+/-- A primitive idempotent is primitive if it's not zero and `e ≠ e₁ + e₂` for any
+  `e₁` and `e₂` idempotents and pairwisely orthogonal. -/
+structure IsPrimitiveIdempotents (e : R) : Prop where
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:118]: Definition removed and will be added to another PR!

File: Mathlib/RingTheory/Idempotents.lean [hunk 10]
```diff
@@ -335,6 +345,112 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
...
+    simp only [DFinsupp.single_apply, ↓reduceDIte, x]
+  have := congr($this i)
+  simp only [DFinsupp.mapRange_apply, Subtype.ext_iff, y] at this
+  unfold IsIdempotentElem
+  rw [this.symm]
+  simp only [DFinsupp.single_apply, ↓reduceDIte, x]
+
+open DirectSum in
+omit [Fintype I] in
+/-- If a ring can be decomposed into direct sum of finitely many left ideals `Vᵢ`
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:402]: good point, finitely many deleted!

File: Mathlib/RingTheory/Idempotents.lean [hunk 11]
```diff
@@ -335,6 +345,112 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
     simpa [RingHom.mem_ker, sub_eq_zero] using congr_fun h₂.symm i
   exact h₁
 
+open DirectSum in
+omit [Fintype I] in
+lemma decomp_ring_ortho_idem_is_idem [DecidableEq I] (V : I → Submodule R R)
+    [Decomposition V] (e : ⨁ (i : I), (V i)) [(i : I) → (x : ↥(V i)) → Decidable (x ≠ 0)]
+    (he : (1 : R) = ∑ j ∈ e.support, e j):
+    ∀ (i : { x // x ∈ DFinsupp.support e }), IsIdempotentElem ((e i.1) : R) := fun i => by
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:354]: done!

[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:354]: done!

File: Mathlib/RingTheory/Idempotents.lean (hunk 6 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:407]: Yes and changed!

File: Mathlib/RingTheory/Idempotents.lean [hunk 12]
```diff
@@ -335,6 +345,112 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
     simpa [RingHom.mem_ker, sub_eq_zero] using congr_fun h₂.symm i
   exact h₁
 
+open DirectSum in
+omit [Fintype I] in
+lemma decomp_ring_ortho_idem_is_idem [DecidableEq I] (V : I → Submodule R R)
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:342]: I really don't know what to use these two seemed to be definitionally equal...

[the remark this answers is not in the document]
Comment (kbuzzard) [reply Mathlib/RingTheory/Idempotents.lean:342]: Yes, they might be equal, but still it makes sense to ask what the canonical form in mathlib is, i.e. should our theorems about ideals talk about `Ideal R` or `Submodule R R`, and the decision made in Mathlib is that we prove lots of theorems about `Ideal R`, so your theorems should also be about `Ideal R`.

[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean]: done!

File: Mathlib/RingTheory/Idempotents.lean [hunk 13]
```diff
@@ -336,6 +337,112 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
     simpa [RingHom.mem_ker, sub_eq_zero] using congr_fun h₂.symm i
   exact h₁
 
+open DirectSum in
+omit [Fintype I] in
+lemma decomp_ring_ortho_idem_is_idem [DecidableEq I] (V : I → Ideal R)
+    [Decomposition V] (e : ⨁ (i : I), (V i)) [(i : I) → (x : ↥(V i)) → Decidable (x ≠ 0)]
+    (he : e = decompose V 1):
+    ∀ i ∈ DFinsupp.support e, IsIdempotentElem ((e i) : R) := fun i => by
```
Comment (erdOne) [inline Mathlib/RingTheory/Idempotents.lean:345]:
```suggestion
    [Decomposition V] (i) : IsIdempotentElem (decompose V 1 i : R) := by
  classical
  set e := decompose V 1 with he
```
Is there a reason why this lemma is not stated like this?

Comment (erdOne) [reply Mathlib/RingTheory/Idempotents.lean:345]: And the proof is just
```
open DirectSum in
omit [Fintype I] in
lemma decomp_ring_ortho_idem_is_idem [DecidableEq I] (V : I → Ideal R)
    [Decomposition V] (i) : IsIdempotentElem (decompose V 1 i : R) := by
  rw [IsIdempotentElem, ← smul_eq_mul, ← Submodule.coe_smul, ← smul_apply,
    ← decompose_smul, smul_eq_mul, mul_one, decompose_coe, of_eq_same]
```

File: Mathlib/RingTheory/Idempotents.lean [hunk 14]
```diff
@@ -336,6 +337,112 @@ theorem CompleteOrthogonalIdempotents.of_ker_isNilpotent_of_isMulCentral
...
+omit [Fintype I] in
+/-- If a ring can be decomposed into direct sum of left ideals `Vᵢ`
+  where `1 = e₁ + ... + eₙ` and `eᵢ ∈ Vᵢ`, then `eᵢ` is a family of orthogonal
+  idempotents.-/
+theorem OrthogonalIdempotent.decomp_ring_ortho_idem [DecidableEq I] (V : I → Ideal R)
+    [Decomposition V] (e : ⨁ (i : I), (V i)) [(i : I) → (x : ↥(V i)) → Decidable (x ≠ 0)]
+    (he : e = decompose V 1) :
+    OrthogonalIdempotents (R := R) (I := DFinsupp.support e) fun i ↦ e i where
+  idem := fun ⟨i, hi⟩ ↦ decomp_ring_ortho_idem_is_idem V e he i hi
+  ortho := fun i j hij ↦ by
```
Comment (erdOne) [inline Mathlib/RingTheory/Idempotents.lean:399]: Similarly, this is just
```
theorem OrthogonalIdempotent.decomp_ring_ortho_idem [DecidableEq I] (V : I → Ideal R)
    [Decomposition V] :
    OrthogonalIdempotents (R := R) fun i ↦ decompose V 1 i where
  idem := decomp_ring_ortho_idem_is_idem V 
  ortho := fun i j hij ↦ by
    simp only
    rw [← smul_eq_mul, ← Submodule.coe_smul, ← smul_apply,
      ← decompose_smul, smul_eq_mul, mul_one, decompose_coe, of_eq_of_ne (h := hij),
      Submodule.coe_zero]
```

**Comment by erdOne** [comment]
And I think (also judging from the "large-import" tag) this belongs to `Mathlib.Algebra.DirectSum.Idempotents` or something similar.

File: Mathlib/RingTheory/Idempotents.lean (hunk 14 above)
Comment (erdOne) [reply Mathlib/RingTheory/Idempotents.lean:399]: Probably the right thing to do is something like
```
def DirectSum.idempotent [DecidableEq I] (V : I → Ideal R) [Decomposition V] (i : I) : R :=
  decompose V 1 i

lemma DirectSum.decompose_eq_mul_idempotent [DecidableEq I] (V : I → Ideal R) [Decomposition V]
    (x : R) (i : I) : decompose V x i = x * idempotent V i := by
  rw [← smul_eq_mul (a := x), idempotent, ← Submodule.coe_smul, ← smul_apply, ← decompose_smul,
    smul_eq_mul, mul_one]
```

File: Mathlib/RingTheory/Idempotents.lean (hunk 13 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:345]: thanks, changed!

File: Mathlib/RingTheory/Idempotents.lean (hunk 14 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:399]: > Probably the right thing to do is something like
> 
> ```
> def DirectSum.idempotent [DecidableEq I] (V : I → Ideal R) [Decomposition V] (i : I) : R :=
>   decompose V 1 i
> 
> lemma DirectSum.decompose_eq_mul_idempotent [DecidableEq I] (V : I → Ideal R) [Decomposition V]
>     (x : R) (i : I) : decompose V x i = x * idempotent V i := by
>   rw [← smul_eq_mul (a := x), idempotent, ← Submodule.coe_smul, ← smul_apply, ← decompose_smul,
>     smul_eq_mul, mul_one]
> ```

where do you think we should put it?

Comment (erdOne) [reply Mathlib/RingTheory/Idempotents.lean:399]: I think all this can go into a new file `Mathlib.Algebra.DirectSum.Idempotents`.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:399]: All of these or just this few lines?

Comment (erdOne) [reply Mathlib/RingTheory/Idempotents.lean:399]: Judging from the "large-import" tag, I think the new `OrthogonalIdempotent.decomp_ring_ortho_idem` results belongs there too.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean]: is it okay now? :)

Comment (erdOne) [reply Mathlib/RingTheory/Idempotents.lean]: Please fix the build errors

Comment (erdOne) [reply Mathlib/RingTheory/Idempotents.lean]: And `DirectSum.decompose_eq_mul_idempotent` can probably be used to golf the other two results. 
Those two results need better names too.

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean]: what names do you suggest?

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 15]
```diff
@@ -0,0 +1,44 @@
...
+  decompose V 1 i
+
+lemma decompose_eq_mul_idempotent [DecidableEq I] (V : I → Ideal R) [Decomposition V]
+    (x : R) (i : I) : decompose V x i = x * idempotent V i := by
+  rw [← smul_eq_mul (a := x), idempotent, ← Submodule.coe_smul, ← smul_apply, ← decompose_smul,
+    smul_eq_mul, mul_one]
+
+
+lemma decomp_ring_ortho_idem_is_idem [DecidableEq I] (V : I → Ideal R)
+    [Decomposition V] (i) : IsIdempotentElem (decompose V 1 i : R) := by
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:25]:
```suggestion
    [Decomposition V] (i) : IsIdempotentElem (idempotent V i : R) := by
```
So this lemma should be called `isIdempotentElem_idempotent` according to the [naming convention](https://leanprover-community.github.io/contribute/naming.html). 
Similar below.

**Review by erdOne — COMMENTED** [review]
Also please fix the build errors.
In general, please try to make sure that there are no build errors before removing the `awaiting-author` tag, as the PR will not appear on the queue if there are build errors.

File: Mathlib/Algebra/DirectSum/Idempotents.lean (hunk 15 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Idempotents.lean]: thanks name changed

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 16]
```diff
@@ -0,0 +1,52 @@
...
+
+variable {R I : Type*} [Ring R]
+
+namespace DirectSum
+
+section OrthogonalIdempotents
+
+/-- The decomposition of `(1 : R)` into the direct sum of ideals which is also the identity
+  of the ring induced by the directsum.-/
+def idempotent [DecidableEq I] (V : I → Ideal R) [Decomposition V] (i : I) : R :=
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:24]: I think we should move `[DecidableEq I] (V : I → Ideal R) [Decomposition V]` to variables?

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 17]
```diff
@@ -0,0 +1,52 @@
...
+  decompose V 1 i
+
+lemma decompose_eq_mul_idempotent [DecidableEq I] (V : I → Ideal R) [Decomposition V]
+    (x : R) (i : I) : decompose V x i = x * idempotent V i := by
+  rw [← smul_eq_mul (a := x), idempotent, ← Submodule.coe_smul, ← smul_apply, ← decompose_smul,
+    smul_eq_mul, mul_one]
+
+lemma isIdempotentElem_idempotent [DecidableEq I] (V : I → Ideal R)
+    [Decomposition V] (i) : IsIdempotentElem (idempotent V i : R) := by
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:33]:
```suggestion
    [Decomposition V] (I : I) : IsIdempotentElem (idempotent V i : R) := by
```

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 18]
```diff
@@ -0,0 +1,52 @@
...
+  rw [IsIdempotentElem, idempotent, ← smul_eq_mul, ← Submodule.coe_smul, ← smul_apply,
+    ← decompose_smul, smul_eq_mul, mul_one, decompose_coe, of_eq_same]
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:35]: The point of `decompose_eq_mul_idempotent` is to not go through so many hoops here.
```suggestion
  rw [IsIdempotentElem, ← decompose_eq_mul_idempotent, idempotent, decompose_coe, of_eq_same]
```
Or you can even provide lemmas concerning `decompose V (idempotent V i) j` if you like.

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 19]
```diff
@@ -0,0 +1,52 @@
...
+
+/-- If a ring can be decomposed into direct sum of left ideals `Vᵢ`
+  where `1 = e₁ + ... + eₙ` and `eᵢ ∈ Vᵢ`, then `eᵢ` is a family of orthogonal
+  idempotents.-/
+theorem isOrthoIdempotent_idempotent [DecidableEq I] (V : I → Ideal R)
+    [Decomposition V] :
+    OrthogonalIdempotents (R := R) fun i ↦ idempotent V i where
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:42]:
```suggestion
    OrthogonalIdempotents fun i ↦ idempotent V i where
```

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 20]
```diff
@@ -0,0 +1,52 @@
...
+  idem := isIdempotentElem_idempotent V
+  ortho := fun i j hij ↦ by
+    simp only
+    rw [← smul_eq_mul, idempotent, idempotent, ← Submodule.coe_smul, ← smul_apply,
+      ← decompose_smul, smul_eq_mul, mul_one, decompose_coe, of_eq_of_ne (h := hij),
+      Submodule.coe_zero]
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:48]:
```suggestion
    rw [← decompose_eq_mul_idempotent, idempotent, decompose_coe,
      of_eq_of_ne (h := hij), Submodule.coe_zero]
```
Similar here.

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 21]
```diff
@@ -0,0 +1,52 @@
...
+
+lemma isIdempotentElem_idempotent [DecidableEq I] (V : I → Ideal R)
+    [Decomposition V] (i) : IsIdempotentElem (idempotent V i : R) := by
+  rw [IsIdempotentElem, idempotent, ← smul_eq_mul, ← Submodule.coe_smul, ← smul_apply,
+    ← decompose_smul, smul_eq_mul, mul_one, decompose_coe, of_eq_same]
+
+/-- If a ring can be decomposed into direct sum of left ideals `Vᵢ`
+  where `1 = e₁ + ... + eₙ` and `eᵢ ∈ Vᵢ`, then `eᵢ` is a family of orthogonal
+  idempotents.-/
+theorem isOrthoIdempotent_idempotent [DecidableEq I] (V : I → Ideal R)
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:40]: According to the [naming conventions](https://leanprover-community.github.io/contribute/naming.html), this should be called `orthogonalIdempotents_idempotent`. There is no `isOrthoIdempotent` present in the type signature.

Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:40]: Also, can you strengthen this to `CompleteOrthogonalIdempotents`? Thanks!

**Review by erdOne — COMMENTED** [review]
Also is it possible to

File: Mathlib/Algebra/DirectSum/Idempotents.lean (hunk 16 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Idempotents.lean:24]: done!

File: Mathlib/Algebra/DirectSum/Idempotents.lean (hunk 21 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Idempotents.lean:39]: okay done!

Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Idempotents.lean:39]: proved!

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 22]
```diff
@@ -0,0 +1,61 @@
...
+
+namespace DirectSum
+
+section OrthogonalIdempotents
+
+variable {R I : Type*} [Ring R] [DecidableEq I] (V : I → Ideal R) [Decomposition V]
+
+/-- The decomposition of `(1 : R)` into the direct sum of ideals which is also the identity
+  of the ring induced by the directsum.-/
+def idempotent   (i : I) : R :=
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:24]:
```suggestion
/-- The decomposition of `(1 : R)` into the direct sum of ideals which is also the identity
  of the ring induced by the directsum.-/
def idempotent (i : I) : R :=
```
Also I can't really understand the docstring.

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 23]
```diff
@@ -0,0 +1,61 @@
...
+  rw [← smul_eq_mul (a := x), idempotent, ← Submodule.coe_smul, ← smul_apply, ← decompose_smul,
+    smul_eq_mul, mul_one]
+
+lemma isIdempotentElem_idempotent (i : I) : IsIdempotentElem (idempotent V i : R) := by
+  rw [IsIdempotentElem, ← decompose_eq_mul_idempotent, idempotent, decompose_coe, of_eq_same]
+
+/-- If a ring can be decomposed into direct sum of finite left ideals `Vᵢ`
+  where `1 = e₁ + ... + eₙ` and `eᵢ ∈ Vᵢ`, then `eᵢ` is a family of complete
+  orthogonal idempotents.-/
+theorem orthogonalIdempotents_idempotent [Fintype I]:
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:38]: Now that the type signature is `CompleteOrthogonalIdempotents` and not `OrthogonalIdempotents`, this should be called 
```suggestion
theorem completeOrthogonalIdempotents_idempotent [Fintype I]:
```

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 24]
```diff
@@ -0,0 +1,61 @@
...
+Copyright (c) 2025 Yunzhou Xie. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yunzhou Xie, Jujian Zhang, Andrew Yang
+-/
+import Mathlib.RingTheory.Idempotents
+import Mathlib.Algebra.DirectSum.Decomposition
+
+/-!
+# Decomposition of the identity of a ring into orthogonal idempotents
+In this file we show that if a ring `R` can be decompose into direct sum
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:11]:
```suggestion
In this file we show that if a ring `R` can be decomposed into a direct sum
```

File: Mathlib/Algebra/DirectSum/Idempotents.lean (hunk 22 above)
Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Idempotents.lean]: I'll change it after I fix this error

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 25]
```diff
@@ -0,0 +1,61 @@
...
+    set e := decompose V 1 with e_eq
+    have : ∑ i : I, e i = ∑ i ∈ e.support, (e i : R) := by
+      symm
+      have := Finset.sum_subset (α := I) (β := R) (s₁ := e.support) (s₂ := Finset.univ)
+        (f := fun i ↦ e i) (Finset.subset_univ e.support) (fun i rfl hi ↦ by
+          simp only [ZeroMemClass.coe_eq_zero]
+          simp_all only [DFinsupp.mem_support_toFun, Decidable.not_not])
+      simp only at this
+      rw [this]
+    rw [this]; exact sum_support_decompose V 1
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:57]:
```suggestion
    apply (decompose V).injective
    refine DFunLike.ext _ _ fun i ↦ ?_
    rw [decompose_sum, DFinsupp.finset_sum_apply]
    simp [idempotent, of_apply]
```

File: Mathlib/Algebra/DirectSum/Decomposition.lean [hunk 26]
```diff
@@ -267,6 +267,20 @@ theorem decompose_lhom_ext {N} [AddCommMonoid N] [Module R N] ⦃f g : M →ₗ[
...
+  rw [DirectSum.coeAddMonoidHom_eq_dfinsupp_sum]
+  change _ = ∑ _ ∈ _, _
+  refine Finset.sum_congr (by congr) fun i hi => rfl
+
+lemma decompose_unique (rep₁ rep₂ : ⨁ i, ℳ i) [(i : ι) → (x : ↥(ℳ i)) → Decidable (x ≠ 0)]
+    (h₁ : (∑ i ∈ rep₂.support, rep₂ i : M) = (∑ i ∈ rep₁.support, rep₁ i)) :
+    rep₁ = rep₂ := by
+  repeat rw [sum_support_eq_coe] at h₁
+  exact ((decompose ℳ).symm.injective h₁).symm
+
```
Comment (erdOne) [inline Mathlib/Algebra/DirectSum/Decomposition.lean:283]: These lemmas feel quite strange to me. Where do you need them?

Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Decomposition.lean:283]: I used to need them... but not anymore I guess

Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Decomposition.lean:283]: I could delete them but it feels right to me to have a uniqueness of decomposition somewhere...?

Comment (Whysoserioushah) [reply Mathlib/Algebra/DirectSum/Decomposition.lean:283]: yeah you're probly right I'll delete them

**Review by erdOne — APPROVED** [review]
The PR looks good to me aside from some docstrings that I couldn't fully parse nor improve on.

But I think I have requested too many alterations to comfortably maintainer merge this and I'll wait for a third opinion.

File: Mathlib/RingTheory/Idempotents.lean [hunk 27]
```diff
@@ -7,7 +7,6 @@ import Mathlib.Algebra.GeomSum
 import Mathlib.Algebra.Polynomial.AlgebraMap
 import Mathlib.RingTheory.Ideal.Quotient.Operations
 import Mathlib.RingTheory.Nilpotent.Defs
-import Mathlib.Tactic.StacksAttribute
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Idempotents.lean:10]: Why is this change in this PR?

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 28]
```diff
@@ -0,0 +1,53 @@
...
+Authors: Yunzhou Xie, Jujian Zhang, Andrew Yang
+-/
+import Mathlib.RingTheory.Idempotents
+import Mathlib.Algebra.DirectSum.Decomposition
+
+/-!
+# Decomposition of the identity of a ring into orthogonal idempotents
+In this file we show that if a ring `R` can be decomposed into a direct sum
+of (left) ideals `R = V1 ⊕ V2 ⊕ ⬝ ⬝ ⬝ ⊕ Vn` where `1 = e₁ + e₂ + ⬝ ⬝ ⬝ + eₙ`,
+then each `eᵢ` is an idempotent and they are complete orthogonal idempotents.
```
Comment (kbuzzard) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:13]:
```suggestion
of (left) ideals `R = V₁ ⊕ V₂ ⊕ ⬝ ⬝ ⬝ ⊕ Vₙ` then in the corresponding decomposition
`1 = e₁ + e₂ + ⬝ ⬝ ⬝ + eₙ` with `eᵢ ∈ Vᵢ`, each `eᵢ` is an idempotent and the
`eᵢ`'s form a family of complete orthogonal idempotents.
```

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 29]
```diff
@@ -0,0 +1,53 @@
...
+lemma isIdempotentElem_idempotent (i : I) : IsIdempotentElem (idempotent V i : R) := by
+  rw [IsIdempotentElem, ← decompose_eq_mul_idempotent, idempotent, decompose_coe, of_eq_same]
+
+/-- If a ring can be decomposed into direct sum of finite left ideals `Vᵢ`
+  where `1 = e₁ + ... + eₙ` and `eᵢ ∈ Vᵢ`, then `eᵢ` is a family of complete
+  orthogonal idempotents.-/
+theorem completeOrthogonalIdempotents_idempotent [Fintype I]:
+    CompleteOrthogonalIdempotents fun i ↦ idempotent V i where
+  idem := isIdempotentElem_idempotent V
+  ortho := fun i j hij ↦ by
```
Comment (kbuzzard) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:41]:
```suggestion
  ortho i j hij := by
```

File: Mathlib/RingTheory/Idempotents.lean (hunk 27 above)
Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:10]: I don’t know I made some change to this file and turned out we didn’t need this, I could revert it if necessary

Comment (kbuzzard) [reply Mathlib/RingTheory/Idempotents.lean:10]: If we don't need the import then I guess it's fine

Comment (Whysoserioushah) [reply Mathlib/RingTheory/Idempotents.lean:10]: Nothing breaks because of it so I guess it’s fine?

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 30]
```diff
@@ -0,0 +1,54 @@
+/-
+Copyright (c) 2025 Yunzhou Xie. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yunzhou Xie, Jujian Zhang, Andrew Yang
+-/
+import Mathlib.RingTheory.Idempotents
+import Mathlib.Algebra.DirectSum.Decomposition
+
+/-!
+# Decomposition of the identity of a ring into orthogonal idempotents
```
Comment (kbuzzard) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:10]:
```suggestion
# Decomposition of the identity of a ring into orthogonal idempotents

```

**Comment by kbuzzard** [comment]
Thanks a lot!

bors d+

File: Mathlib/Algebra/DirectSum/Idempotents.lean [hunk 31]
```diff
@@ -0,0 +1,55 @@
...
+    smul_eq_mul, mul_one]
+
+lemma isIdempotentElem_idempotent (i : I) : IsIdempotentElem (idempotent V i : R) := by
+  rw [IsIdempotentElem, ← decompose_eq_mul_idempotent, idempotent, decompose_coe, of_eq_same]
+
+/-- If a ring can be decomposed into direct sum of finite left ideals `Vᵢ`
+  where `1 = e₁ + ... + eₙ` and `eᵢ ∈ Vᵢ`, then `eᵢ` is a family of complete
+  orthogonal idempotents.-/
+theorem completeOrthogonalIdempotents_idempotent [Fintype I]:
+    CompleteOrthogonalIdempotents fun i ↦ idempotent V i where
```
Comment (alreadydone) [inline Mathlib/Algebra/DirectSum/Idempotents.lean:41]: You might be interested in reviewing #20531, which goes the other way around.
I think this is generalizable to semirings too :)
